US04615966
A solution of 8.68 g (0.299 mol) of 5-bromo-6-methylsulfamoylindole in ethanol was degassed under nitrogen for 15 minutes. Then triethylamine (0.036 mol) was added and then 1.09 g of palladium catalyst. The mixture was hydrogenated (40 psi) for 3 hours. Thin layer chromatography (2.5% methanol/methylene chloride) showed the reaction was complete. The mixture was filtered to remove the catalyst and then concentrated under reduced pressure. The oil remaining was taken up in chloroform and concentrated under reduced pressure four times to remove traces of ethanol solvent. The oil was chromatographed on a silica gel column eluted with 2.5% methanol/methylene chloride. The golden solution was concentrated under vacuum to give an oil. The oil was mixed with water and a tan solid precipitated. After cooling overnight, the tan solid was isolated by vacuum filtration and then washed with water. The solid was allowed to dry and then crushed to a powder which was allowed to further dry. 5.76 g (91.2% by weight yield) of 6-methylsulfamoylindole was obtained. M/e 210 1H-NMR: (DMSO) δ7.859 (m,1H), 7.728 (d, 1H), 7.63 (t, 1H), 7.39 (dd,1H), 7.25 (q, 1H), 6.57 (t,1H), 2.37 (d,3H).

reactant | 5-bromo-6-methylsulfamoylindole | 0.299 mol, 8.68 g | BrC=1C=C2C=CNC2=CC1S(NC)(=O)=O | C9H9BrN2O2S
reactant | triethylamine | 0.036 mol | C(C)N(CC)CC | C6H15N
reactant | methanol methylene chloride | CO.C(Cl)Cl
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium | 1.09 g | [Pd] | Pd
product | 6-methylsulfamoylindole | 5.76 g | CNS(=O)(=O)C1=CC=C2C=CNC2=C1 | C9H10N2O2S
